US08293735B2
2-Chloro-6-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
To a stirred solution of 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester (390 mg; 0.81 mmol) in CH2Cl2 (4 mL) was added TFA (6 mL). The reaction mixture was stirred at RT for 4 h upon which time volatiles were removed in vacuo. Purification by SCX-2 gave the title compound as an off-white solid (273 mg; 89%).

reactant | 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 0.81 mmol, 390 mg | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C22H30ClN5O3S
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 273 mg, 89% | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1CNCC1C2)N2CCOCC2 | C17H22ClN5OS
